US07612075B2
A solution of 4-(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester (2.3 g, 5.4 mmol) in methanol (75 mL) is purged with nitrogen and 10% Pd on carbon (0.3 g) is added, and the reaction is again purged with nitrogen. The reaction is placed on a Parr shaker under hydrogen for 16 h. After the system is purged of hydrogen, the catalyst is filtered and washed with methanol. The filtrate is concentrated to provide 4-(2-oxo-piperazin-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester which is used without further purification. MS (EI) 298 (M+H)+.

reactant | 4-(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester | 5.4 mmol, 2.3 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C23H33N3O5
solvent | methanol | 75 mL | CO | CH4O
catalyst | Pd on carbon | 0.3 g | [Pd] | Pd
product | 4-(2-oxo-piperazin-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CNCC1)=O | C15H27N3O3
